US04448773
N-(1'-Methoxycarbonyl-ethyl)-N-methoxyacetyl-2-methyl-6-azidoaniline
10.0 g of N-(1'-methoxycarbonyl-ethyl)-N-methoxyacetyl-2-methyl-6-aminoaniline were strirred up with 75 g of ice and 15 ml of conc. hydrochloric acid at 0° to 5° C. until a clear solution was formed. At 0° to 5° C. where then added dropwise, within 10 minutes, 2.5 g of sodium nitrite dissolved in 10 ml of water. The reddish-brown solution was stirred for a further 30 minutes at the above temperature, and 100 ml of ether were subsequently added. There was thereupon added dropwise at 0° to 5° C., within 15 minutes, a solution of 2.5 g of sodium azide in 10 ml of water, and the temperature was allowed to rise in the course of 30 minutes to room temperature. The reaction mixture was extracted with ether; the organic phase was then washed with sodium hydrogen carbonate/water, dried with magnesium sulfate, and the solvent was evaporated off. The resulting oil was dried at 40° C. in vacuo; nD26 : 1.5396. nD28.5 : 1.5389.

reactant | N-(1'-methoxycarbonyl-ethyl)-N-methoxyacetyl-2-methyl-6-aminoaniline | 10.0 g | COC(=O)C(C)N(C1=C(C=CC=C1N)C)C(COC)=O | C14H20N2O4
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | sodium nitrite | 2.5 g | N(=O)[O-].[Na+]
reactant | sodium azide | 2.5 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-(1'-Methoxycarbonyl-ethyl)-N-methoxyacetyl-2-methyl-6-azidoaniline | COC(=O)C(C)N(C1=C(C=CC=C1N=[N+]=[N-])C)C(COC)=O | C14H18N4O4
